US07642367B2
1-Bromo-4-chloro-5-(1,1-dimethyl-allyl)-2-methoxy-benzene
A suspension of methyltriphenylphosphonium bromide (11.4 g, 0.032 mol) in dry THF (100 mL) was cooled to 0° C. under argon. n-BuLi (2.5M, 12 mL, 0.030 mol) was added slowly. The suspension became more homogenous. The resulting clear orange solution of the ylide was stirred for another 15 min at 0° C. 2-(5-Bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionaldehyde (7.8 g, 0.027 mol) was dissolved in dry THF (50 mL) and added to ylide-solution. The mixture was stirred for 3 h/25° C. and the resulting suspension was quenched with MeOH (10 mL). The solvent was removed under reduced pressure and the crude product was purified by flash chromatography using n-heptane as eluent. Yield: 3.92 g (50%). GCMS: >99%

reactant | n-BuLi | 0.030 mol, 2.5M, 12 mL | [Li]CCCC
reactant | 2-(5-Bromo-2-chloro-4-methoxy-phenyl)-2-methyl-propionaldehyde | 0.027 mol, 7.8 g | BrC=1C(=CC(=C(C1)C(C=O)(C)C)Cl)OC | C11H12BrClO2
catalyst | methyltriphenylphosphonium bromide | 0.032 mol, 11.4 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Bromo-4-chloro-5-(1,1-dimethyl-allyl)-2-methoxy-benzene | BrC1=C(C=C(C(=C1)C(C=C)(C)C)Cl)OC | C12H14BrClO
